Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ Catholic priest with h/o CABG ___, chronic sCHF 30%, s/p 
ICD placement in ___ with generator change in on ___, AFib 
with Coumadin but subtherapeutic prsents to the ___ with vague 
sxs of unsteady gait, no appetitie, generally weak, SOB for ___ 
days. Last ___ had ICD procedure/revision and Sx started 
then.  
.  
In the ___, initial vitals were 98.1 60 146/51 18 100% NRB (per 
resident signout, pt has been satting 95% 2L NC not NRB). Labs 
showing baseline Cr 1.6, BNP ~25k, Trop 0.03 without documented 
baseline, INR 1.3 subtherapeutic and supposedly on Coumadin, Dig 
0.8 not toxic. CXR showed new mild CHF with bibasilar airspace 
opacities likely atelectasis cannot r/o infection and small 
bilateral pleural effusions. Pt was given Levaquin 750 mg IV x1. 
 
.  
Of note, pt was admitted for ICD generator change in ___. He 
was seen in Device clinic in follow up ___ at which point 
the RV lead was suspected of not being placed correctly, so he 
was sent for CXR, and ultimately was admitted for ICD lead 
evaluation. However, today EP tested the device in the ___ and 
said it's fine, just to f/u as outpt.  
.  
In the ___, pt denies any falls, CP, fevers, cough, n/v, 
orthopnea, but endorses low PO intake. On the floor, he states 
that he has a chronic cough from years of smoking, but no change 
in sputum or frequency of cough.  
.  
REVIEW OF SYSTEMS  
On review of systems, he denies CP or orthopnea. He endorses 
generalized weakness and occassional lightheadedness. Otherwise, 
ROS negative except as noted above.  

 
Past Medical History:
CARDIAC RISK FACTORS: Dyslipidemia, Hypertension  
CARDIAC HISTORY:  
-CABG: ___ after inferior STEMI  :  
-PACING/ICD: ICD ___ Gem II VR ___ placement in ___ with 
generator change in on ___, pacer dependent with AFib as 
underlying rhythm  
- ischemic CMP with chronic sCHF 30%  
- chronic AFib s/p AVN ablation, on Coumadin but not therapeutic 
 
OTHER PAST MEDICAL HISTORY:  
AAA s/p endovascular repair in ___  
CVA x2 (___) no residual defects  
Chronic kidney disease  
Periheral arterial disease, s/p REIA stent ___, s/p right 
iliofemoral bypass  
Bilateral Cataract surgery  
h/o Monoclonal gammopathy of undetermined significance  
Hemoptysis, thought to be due to pulmonary edema by ___ consult
 
Social History:
___
Family History:
Father and brother have heart disease.    
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. 
 
Physical Exam:
VS: BP=142/68, HR=59, RR=18, O2 sat=94% on 2L  
GENERAL: WDWN elderly M in NAD. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric.  Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa. No xanthalesma.  
NECK: Supple with JVP of  4-5cm above the clavicle.  
CARDIAC: RR, bradycardia, normal S1, S2. No m/r/g. No thrills, 
lifts. No S3 or S4.  
LUNGS: Resp were unlabored, no accessory muscle use. Bibasilar 
crackles.   
ABDOMEN: Soft, NTND.   
EXTREMITIES: warm, no edema 

By time of discharge, bilteral basilar crackles has improved. 
 
Pertinent Results:
Admission Labs:
___ 10:45AM BLOOD WBC-8.1 RBC-3.54* Hgb-13.2* Hct-37.0* 
MCV-104* MCH-37.3* MCHC-35.7* RDW-14.6 Plt ___
___ 10:45AM BLOOD Neuts-89.1* Lymphs-6.2* Monos-3.7 Eos-0.6 
Baso-0.4
___ 10:45AM BLOOD ___ PTT-27.4 ___
___ 10:45AM BLOOD Glucose-113* UreaN-31* Creat-1.6* Na-140 
K-3.9 Cl-105 HCO3-21* AnGap-18
___ 10:45AM BLOOD CK-MB-2 ___
___ 10:45AM BLOOD cTropnT-0.03*
___ 10:45AM BLOOD CK(CPK)-44*
___ 10:45AM BLOOD Calcium-8.9 Phos-3.8 Mg-2.0
___ 10:45AM BLOOD Digoxin-0.8*
.
___ 06:55PM BLOOD CK-MB-2 cTropnT-0.02*
___ 06:55PM BLOOD CK(CPK)-38*
___ 08:40AM BLOOD CK-MB-3 cTropnT-0.02*
___ 08:40AM BLOOD CK(CPK)-83
.
CXR ___
Right-sided AICD and pacemaker device is noted 
with lead terminating in the right ventricle. Abandoned pacer 
leads are also noted within the left chest wall. The patient is 
status post median 
sternotomy and CABG. The heart is mildly enlarged. There is new 
perihilar 
haziness with vascular indistinctness compatible with pulmonary 
edema.  
Additionally, more focal opacities within both lung bases likely 
reflect 
atelectasis, but infection cannot be excluded. There are small 
bilateral 
pleural effusions, right greater than left. No pneumothorax is 
present. 
IMPRESSION: Mild congestive heart failure, new in the interval, 
with 
bibasilar airspace opacities, likely atelectasis, but infection 
is not 
excluded. Small bilateral pleural effusions. 
.
Echo ___
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___. Left ventricular wall thicknesses and cavity size 
are normal. There is mild to moderate regional left ventricular 
systolic dysfunction with hypokinesis of the basal and mid 
inferoseptal, inferior, and inferolateral walls. There is 
considerable beat-to-beat variability of the left ventricular 
ejection fraction due to an irregular rhythm/premature beats. 
The right ventricular cavity is mildly dilated with normal free 
wall contractility. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. Moderate [2+] tricuspid regurgitation is 
seen. There is moderate pulmonary artery systolic hypertension. 
There is a trivial/physiologic pericardial effusion. 
IMPRESSION: Mild to moderate left ventricular systolic 
dysfunction as described above with beat-to-beat variability in 
left ventricular systolic ejection fraction. Mild mitral 
regurgitation. Moderate tricuspid regurgitation. At least 
moderate pulmonary artery systolic hypertension. 
.
Compared with the prior study (images reviewed) of ___, 
the overall right ventricular systolic function appears to have 
improved and the severity of pulmonary artery systolic 
hypertension has increased. 
.
CT Chest ___
IMPRESSION: 
1. Smooth septal thickening and ground glass opacity in 
dependent 
distribution, which gives a crazy paving appearance and likely 
reflects 
pulmonary edema in this patient with a significant ischemic 
cardiomyopathy, although pulmonary hemorrhage, and aspiration 
(e.g. lipoid pneumonia) are possible in the appropriate clinical 
settings. More confluent peribronchial consolidation in left 
lower lobe could be due to same process, but raises concern for 
infection.  
2. Mild-to-moderate centrilobular emphysema. The presence of 
pulmonary 
arterial enlargement suggests pulmonary hypertension. 
3. Bilateral mild to moderately large pleural effusions with 
associated 
compressive atelectasis. 
  

 
Brief Hospital Course:
Fr. ___ is an ___ gentleman with CAD s/p CABG, ___ with EF 
30%, uderlying AF but s/p pacemaker/ICD with recent generator 
change who presents with Sx of fatigue and SOB with picture 
concerning for acute sCHF exacerbation.  
.  
# CORONARIES: Known CAD, s/p MI and CABG in ___. Trops/CKs 
flat, ruled out for acute MI. Home statin and ___ were 
continued. Pt became orthostatic on HD 2, and ___ was 
decreased, but was subsequently uptitrated to home dose. ASA 
81mg was started as was not on patient's med list. Pt's PCP was 
contacted and in agreement that ___ should be on ASA.  
.  
# PUMP: EF 30% in ___. Presentation was felt to be acute on 
chronic systolic heart failure given significantly elevated BNP 
on admission, bibasilar crackles, and CXR findings. Echo this 
admission was improved with EF 40%. Pt was gently diuresed. Pt 
became orthostatic on HD2 as noted above, likely from diuresis 
plus high-dose anti-hypertensives, but his ___ and ___ were 
able to be uptitrated back to home dose prior to d/c. Diuresis 
was held as Cr began to slowly rise, and pt was not sent home on 
oral diuresis. 
.
He saturated well on room are both at rest and with ambulation. 
.  
# RHYTHM: AF, chronic. Con't home digoxin and ___ as noted 
above. Pt paced at 60. Pt has not been therapeutic on warfarin. 
CHADS2 score of 5, so most of his admission was on a heparin gtt 
bridge to coumadin. Warfarin dose was continually increased 
without achieving a therapeutic INR. Dabigatran was discussed, 
but was not covered by the patient's insurance. However, it may 
be worthwhile to try to get a prior authorization as would be a 
better drug for this patient. The decision was made to hold pt's 
anticoagulation for a month given hemoptysis (see below).
.
# Hemoptysis: Chronic (per pt ___ years), but per last 2 PCPs, had 
not been worked up previosly. Given extensive smoking Hx and 
small nodules noted on prior xrays, CT chest was done which 
showed B/L effusions and ground glass opacities. Pulmonology was 
consulted, and felt CHF was likely the primary etiology. Pt was 
covered for CAP with a course of levofloxacin per their recs. 
Urine legionella was negative, and sputum Cx pending. Pt has 
pulm follow-up scheduled as an outpatient.    
PPI started and speech and swallow consulted re GERD/?aspiration 
who did note some swallowing abnormalities, but not to a severe 
degree, and risks/benefits were discussed with pt. 
.
___ recommended checking ___, ANCA, and anti-GBM, which were 
pending at the time of discharge. It would be useful to get 
imaging studies from ___, but patient did not recall where 
these had been done. 
Coumadin held upon discharge as noted above.       
.  
# HTN: Metoprolol and valsartan as above. Home antihypertensive 
regimen was reuptitrated after briefy orthostatic hypoTN episode 
early in hospital course, after which, pt was hypertense to 
160-170's. 
.  
# s/p pacemaker intervention: Pt completed a course of 
cephalexin 500mg BID for prophylaxsis after pacer wire revision. 
Sx started chronologically with pacer intervention, so EP saw 
the patient in the ___. Pacer was successfully interrogated. UCx 
negative, BCx had not growth to date at the time of discharge.
.
.
Pt was confirmed full code this admission.   
.
Of note, pt's PCP ___ was contacted and given a verbal 
signout of active issues and interventions done this admission, 
including need to f/u elevated Cr, pt discharged off Lasix, and 
hemoptysis issues. 
 
Medications on Admission:
ATORVASTATIN [LIPITOR] - (Prescribed by Other Provider) - 10 mg  

Tablet - 1 Tablet(s) by mouth daily every evening  
DIGOXIN - (Prescribed by Other Provider) - 125 mcg Tablet - 1  
Tablet(s) by mouth daily every evening  
METOPROLOL SUCCINATE - 100 mg Tablet Extended Release 24 hr - 1  

Tablet(s) by mouth daily every evening  
NIFEDIPINE [NIFEDICAL XL] - (Prescribed by Other Provider) - 30  

mg Tablet Extended Rel 24 hr - 1 Tablet(s) by mouth once a day  
VALSARTAN [DIOVAN] - 320 mg Tablet - 1 Tablet(s) by mouth daily  

WARFARIN - (Dose adjustment - no new Rx) - 2 mg Tablet - 1  
Tablet(s) by mouth daily every evening  
Medications - OTC  
FOLIC ACID - (Prescribed by Other Provider) - 0.8 mg Tablet - 1  

Tablet(s) by mouth daily  
MULTIVITAMIN - (Prescribed by Other Provider) - Capsule - 1  
Capsule(s) by mouth daily  
NIACIN - (Prescribed by Other Provider) - 1,000 mg Tablet  
Extended Release - 1 Tablet(s) by mouth daily  

 
Discharge Medications:
1. atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. niacin 500 mg Capsule, Extended Release Sig: Two (2) Capsule, 
Extended Release PO DAILY (Daily).  
5. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.  
7. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*0*
8. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO Q48H (every 
48 hours) for 3 doses: Please take this for 3 more doses (one 
___, one ___ am, and one ___ pm).
Disp:*3 Tablet(s)* Refills:*0*
9. valsartan 160 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
10. nifedipine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).  
11. multivitamin  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Acute on chronic systolic heart failure
Hemoptysis
Small amounts of aspiration noted on video fluoroscopy
.
Secondary: Hypertension
Chronic systolic heart failure
S/p CABG and ICD placement
Vasculopathy with AAA s/p EVAR in ___, PAD s/p REIA stent ___ 
and right iliofemoral bypass
CVA x3 without residual deficits
CKD with baseline Cr ~1.5-1.7
h/o MGUS
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Fr. ___,
It was a pleasure taking care of ___ here at ___ 
___ were admitted to ___ after a 
week of not feeling well. We thought ___ had too much fluid in 
your lungs and gave ___ medicine to help ___ get rid of fluid. 
We also adjusted some of your blood pressure medicines so that 
your blood pressure didn't drop too low when ___ went from 
sitting to standing, however all of your home medications were 
eventually added back. ___ had a CT scan of your chest that was 
abnormal, and we asked the lung doctors (___) to see 
___. There was concern that ___ had acid reflux that was 
irritating your lungs, so we started ___ on an anti-acid 
medicine. ___ saw a speech and swallow expert who gave ___ some 
recommendations. We also treated ___ for a possible pneumonia. 
___ will follow up with the lung doctors. ___ should have a PPD 
or TB skin test placed when ___ follow up at Dr. ___ office. 
.
- PLEASE NOTE: We are NOT discharging ___ with any water pills 
(Lasix) because your kidney function shows that ___ may be 
slightly dehydrated. For now, this is OK but ___ should discuss 
this with Dr. ___ Dr. ___ at follow up. 

.
We made the following changes to your medications:
- Please START taking omeprazole 20mg daily
- Please START taking levofloxacin. Take a tablet on ___ and 
___.
- Please STOP your warfarin for now. ___ should discuss the 
risks and benefits of re-starting this medication with Drs. 
___.
 
 
Followup Instructions:
___